US06045720
9 ml of n-butyl lithium (1.68M hexane solution) was added dropwise to a solution of 5 g of 5-heptyl-2-(4-bromophenyl) pyridine prepared by the method described in Toku-Kai-Sho 60-163864 in 100 ml of THF with maintaining at -60° C. After stirring for 30 minutes with maintaining at -60° C., 3 g of trimethyl borate was added and stirred for further 1 hour. After the inner temperature was recovered gradually to the room temperature, 40 ml of 6N hydrochloric acid was added and then THF was distilled off. The formed solid was filtered and recrystallized, to obtain 3 g of 4-(5-heptylpyridin-2-yl)phenyl boronic acid. Melting point; 206-214° C.

reactant | n-butyl lithium | 1.68M, 9 ml | C(CCC)[Li]
reactant | 5-heptyl-2-(4-bromophenyl) pyridine | 5 g | C(CCCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)Br | C18H22BrN
reactant | trimethyl borate | 3 g | B(OC)(OC)OC | C3H9BO3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(5-heptylpyridin-2-yl)phenyl boronic acid | 3 g | C(CCCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)B(O)O | C18H24BNO2
